US07141569B2
a) 2-(4-Chloro-2-pyridinyl)-1-(4-methoxyphenyl)ethanone
To a cold (0° C.) solution of 4-chloro-2-picoline (10 g, 78.4 mmol) and ethyl 4-methoxybenzoate (14.1 g, 78.4 mmol) in tetrahydrofuran (100 mL) was added lithium bis(trimethylsilyl)amide (157 mL, 1.0 M in tetrahydrofuran, 157 mmol) dropwise via a pressure equalizing funnel over half an hour. Upon complete addition, the ice bath was removed and the resulting solution was heated at 45° C. for 15 hours. The mixture was cooled to room temperature, and the solution was concentrated. Methanol was added to quench the reaction, resulting in the formation of a yellow precipitate. The precipitate was collected by filtration and dried to give the product as a mixture of enol and ketone tautomers. MS m/z 262 (M+1).

reactant | 4-chloro-2-picoline | 78.4 mmol, 10 g | ClC1=CC(=NC=C1)C | C6H6ClN
reactant | ethyl 4-methoxybenzoate | 78.4 mmol, 14.1 g | COC1=CC=C(C(=O)OCC)C=C1 | C10H12O3
reactant | lithium bis(trimethylsilyl)amide | 157 mmol, 1.0 M, 157 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 2-(4-Chloro-2-pyridinyl)-1-(4-methoxyphenyl)ethanone | ClC1=CC(=NC=C1)CC(=O)C1=CC=C(C=C1)OC | C14H12ClNO2
